US08022062B2
1-Bromomethyl-2-methanesulfonylbenzene:
To a stirred solution of (2-methanesulfonyl-phenyl)methanol (735 mg, 3.99 mmol) in dry DCM (2 mL) at 0° C., add a solution of 1M phosphorous tribromide in DCM (6.0 mL, 6.0 mmol) and continue stirring for 1 h. Dilute with saturated aqueous NaHCO3, extract three times with ethyl ether, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (12:1) to provide the title compound as a white solid (950 mg, 97%).

reactant | (2-methanesulfonyl-phenyl)methanol | 3.99 mmol, 735 mg | CS(=O)(=O)C1=C(C=CC=C1)CO | C8H10O3S
reactant | phosphorous tribromide | 1M | P(Br)(Br)Br | Br3P
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 6.0 mmol, 6.0 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromomethyl-2-methanesulfonylbenzene | 950 mg, 97% | BrCC1=C(C=CC=C1)S(=O)(=O)C | C8H9BrO2S
